US06215016B1
In 200 mL of methanol, was dissolved 8.91 g (75.4 mmol) of monomethyl malonate, and the resulting solution was mixed with 4.30 g (37.5 mmol) of magnesium ethoxide, and stirred for 4 hours at room temperature. The reaction solution was concentrated and the residue was dried under reduced pressure. In 120 mL of tetrahydrofuran, was dissolved 4.10 mL (37.7 mmol) of cyclopentanecarboxylic acid, and the resulting solution was mixed with 6.69 g (41.2 mmol) of carbonyldiimidazole, followed by stirring for 2.5 hours. The reaction solution was added to a dry magnesium salt and the resulting mixture was stirred at room temperature for 221 hours. The reaction solution was concentrated; the residue was mixed with 150 mL of 2 N hydrochloric acid, extracted with ethyl acetate, and washed with an aqueous sodium hydrogencarbonate solution and then saturated sodium chloride water. The resultant was dried over sodium sulfate anhydride, filtered, and concentrated. The residue was distilled (0.15 mmHg, 51 to 55° C.) to give 5.72 g (33.4 mmol, 88.8%) of methyl 2-cyclopentanecarbonylacetate as an anhydrous liquid. Similarly to Example 133, 2.32 g (8.39 mmol, 57.0%) of pale yellow crystals were obtained from 5.72 g (33.4 mmol) of methyl 2-cyclopentanecarbonylacetate.

reactant | monomethyl malonate | 75.4 mmol, 8.91 g | C(CC(=O)[O-])(=O)OC
reactant | magnesium ethoxide | 37.5 mmol, 4.30 g | [O-]CC.[Mg+2].[O-]CC
reactant | cyclopentanecarboxylic acid | 37.7 mmol, 4.10 mL | C1(CCCC1)C(=O)O | C6H10O2
reactant | carbonyldiimidazole | 41.2 mmol, 6.69 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | methanol | 200 mL | CO | CH4O
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | methyl 2-cyclopentanecarbonylacetate | 33.4 mmol, 5.72 g, 88.8% | C1(CCCC1)C(=O)CC(=O)OC | C9H14O3
